US07776869B2
A 16 by 100 mm vial was charged with 5-bromo-2-chloro-4-(thiophen-2-yl)pyrimidine (1.00 g, 3.6 mmol), THF (4 mL), triethylamine (1.5 ml, 11 mmol), and methylamine hydrochloride (0.49 g, 7.3 mmol), and water (0.4 mL). The vial was capped and heated to 85° C. with stirring for 20 hours. The reaction was cooled to room temperature and concentrated. The residue was purified via column chromatography on silica gel (gradient elution with 0 to 4% methanol in dichloromethane) to afford 5-bromo-N-methyl-4-(thiophen-2-yl)pyrimidin-2-amine. MS m/z=271 [M+H]+. Calc'd for C9H8BrN3S: 270.

reactant | 5-bromo-2-chloro-4-(thiophen-2-yl)pyrimidine | 3.6 mmol, 1.00 g | BrC=1C(=NC(=NC1)Cl)C=1SC=CC1 | C8H4BrClN2S
reactant | THF | 4 mL | C1CCOC1 | C4H8O
reactant | triethylamine | 11 mmol, 1.5 ml | C(C)N(CC)CC | C6H15N
reactant | methylamine hydrochloride | 7.3 mmol, 0.49 g | Cl.CN
solvent | water | 0.4 mL | O | H2O
product | 5-bromo-N-methyl-4-(thiophen-2-yl)pyrimidin-2-amine | BrC=1C(=NC(=NC1)NC)C=1SC=CC1 | C9H8BrN3S
